US05064814
To a solution of 0.50 g of (S)-2-azetidine carboxylic acid in 15 ml of 10% aqueous sodium carbonate solution was added 1.3 g of 9-fluorenylmethylchloroformate in 10 ml of dioxane, dropwise, while maintaining the temperature of the reaction mixture at 0° C. The reaction mixture was allowed to warm to room temperature and stirred for 3 hours, then poured into water and the aqueous solution washed with ether. The aqueous layer was cooled to 0° C. and adjusted to a pH of 2 with 3N hydrochloric acid and extracted with ethyl acetate. The ethyl acetate solution was dried over magnesium sulfate, filtered, and evaporated in vacuo to give (S)-N-(9-fluorenylmethoxycarbonyl)azetidine-2-carboxylic acid.

reactant | (S)-2-azetidine carboxylic acid | 0.50 g | N1[C@@H](CC1)C(=O)O | C4H7NO2
reactant | 9-fluorenylmethylchloroformate | 1.3 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)Cl | C15H11ClO2
reactant | water | O | H2O
solvent | sodium carbonate | 15 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (S)-N-(9-fluorenylmethoxycarbonyl)azetidine-2-carboxylic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1[C@@H](CC1)C(=O)O | C19H17NO4
